### PR TITLE
close #9

### LINKED ISSUE #9: CumulativeDistributionFunction.apply_nonneg and apply_le_one
Prove `CumulativeDistributionFunction.apply_nonneg` and `CumulativeDistributionFunction.apply_le_one`.

### PR DESCRIPTION
**Pull request by juhomehtatalo**
close #9

### CODE REVIEW

File: ExtremeValueProject/CumulativeDistributionFunction.lean [hunk 1]
```diff
@@ -93,11 +93,23 @@ instance : CoeFun CumulativeDistributionFunction (fun _ ↦ ℝ → ℝ) where
...
 lemma apply_nonneg (F : CumulativeDistributionFunction) (x : ℝ) :
     0 ≤ F x := by
-  sorry -- **Issue #9**
+  have h1: Monotone F := by
+    exact F.mono'
+
+  have F_tendsto_bot : Tendsto F atBot (𝓝 (0 : ℝ)) := by
+    exact F.tendsto_atBot
+
+  exact Monotone.le_of_tendsto h1 F_tendsto_bot x
```
Comment (kkytola) [inline ExtremeValueProject/CumulativeDistributionFunction.lean:102]:
```suggestion
  exact F.mono'.le_of_tendsto F.tendsto_atBot x
```

File: ExtremeValueProject/CumulativeDistributionFunction.lean [hunk 2]
```diff
@@ -93,11 +93,23 @@ instance : CoeFun CumulativeDistributionFunction (fun _ ↦ ℝ → ℝ) where
...
 lemma apply_le_one (F : CumulativeDistributionFunction) (x : ℝ) :
     F x ≤ 1 := by
-  sorry -- **Issue #9**
+  have F_mono: Monotone F := by
+    exact F.mono'
+
+  have F_tendsto_top: Tendsto F atTop (𝓝 (1 : ℝ)) := by
+    exact F.tendsto_atTop
+
+  exact Monotone.ge_of_tendsto F_mono F_tendsto_top x
```
Comment (kkytola) [inline ExtremeValueProject/CumulativeDistributionFunction.lean:112]:
```suggestion
  exact F.mono'.ge_of_tendsto F.tendsto_atTop x
```

**Comment by kkytola** [comment]
Thank you!

I left suggestions that you should be able to just click and accept. The suggestions are doing exactly the same as your proofs, but using "dot-notation" (which in many cases becomes mathematically quite readable).
